US08957062B2
Step B: 4-((1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-2-fluorophenoxy]ethyl}cyclopropyl)-1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidine
To a solution of 1-(azetidin-1-yl)-2-(3-fluoro-4-hydroxyphenyl)ethanone (65.0 mg, 0.236 mmol) in 5 ml anhydrous dichloromethane at RT was added a solution of 2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethanol (59.0 mg, 0.283 mmol), triphenylphosphine, polymer-bound (186 mg, 0.534 mmol), and di-tert-butyl azodicarboxylate (109 mg, 0.472 mmol). The reaction mixture as stirred at RT for 3 hours. The mixture was filtered by Celite and concentrated. The residue The reaction mixture was filtered and purified by reverse-phase HPLC (SunFire Prep C18 OBD 5 um 19×100 mm column; 35-100% acetonitrile in 0.1% formic acid in water gradient), to give the title compound. LC/MS (m/z) 471.3 (M+H)+. Human EC50: 5.3 nM

reactant | 1-(azetidin-1-yl)-2-(3-fluoro-4-hydroxyphenyl)ethanone | 0.236 mmol, 65.0 mg | N1(CCC1)C(CC1=CC(=C(C=C1)O)F)=O | C11H12FNO2
reactant | 2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethanol | 0.283 mmol, 59.0 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C15H25N3O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.472 mmol, 109 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-((1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-2-fluorophenoxy]ethyl}cyclopropyl)-1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidine | N1(CCC1)C(CC1=CC(=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C2=NC(=NO2)C(C)C)C=C1)F)=O | C26H35FN4O3
